US05994355
Synthesis of 1-benzylidene-2-[4-(4-chloro-α-cyanobenzyl)-3,5-dichlorophenyl]-4-(2,2-dimethoxyethyl)semicarbazide
In 20 ml of acetonitrile was suspended 3.2 g of benzaldehyde 4-(4-chloro-α-cyanobenzyl)-3,5-dichlorophenyl hydrazone. To the suspension were added 1.5 g of 2,2-dimethoxyethyl isocyanate and 20 mg of DBU. The reaction was allowed to proceed for one hour at room temperature, then the resulting crystalline precipitate was collected by filtration, which was washed with hexane, followed by drying to afford 3.7 g of the titled compound as colorless crystals, m.p. 190-191° C.

reactant | benzaldehyde 4-(4-chloro-α-cyanobenzyl)-3,5-dichlorophenyl hydrazone | 3.2 g | ClC1=CC=C(C(C#N)C2=C(C=C(C=C2Cl)NN=CC2=CC=CC=C2)Cl)C=C1 | C21H14Cl3N3
reactant | 2,2-dimethoxyethyl isocyanate | 1.5 g | COC(CN=C=O)OC | C5H9NO3
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
catalyst | DBU | 20 mg | C1CCC2=NCCCN2CC1 | C9H16N2
product | 1-benzylidene-2-[4-(4-chloro-α-cyanobenzyl)-3,5-dichlorophenyl]-4-(2,2-dimethoxyethyl)semicarbazide | 3.7 g | C(C1=CC=CC=C1)=NN(C(=O)NCC(OC)OC)C1=CC(=C(C(=C1)Cl)C(C1=CC=C(C=C1)Cl)C#N)Cl | C26H23Cl3N4O3
